US07495110B2
Stage 2: 1-{2-[(cyclohexylmethyl)amino]ethyl}-N,N-diisobutyl-2-[(3,4,5-trimethoxy phenyl)amino]-1H-benzimidazole-5-carboxamide
A solution of 1-(2-aminoethyl)-N,N-diisobutyl-2-[(3,4,5-trimethoxyphenyl)amino]-1H-benzimidazole-5-carboxamide (30 mg, 1 eq) and cyclohexanecarboxaldehyde (5 mg, 0.8 eq) in methanol (0.7 ml) is stirred at a temperature of approximately 20° C. for 4 hours. Borohydride resin (48 mg, 2.5 mmol/g, Amberlite (, IRA-400) is added and the mixture is stirred for 18 hours then dichloromethane (0.5 ml) and benzyloxybenzaldehyde Wang resin (37 mg, 3.22 mmol/g, Novabiochem) are added. After stirring overnight, the mixture is filtered and the filtrate is evaporated under reduced pressure in order to produce the expected compound in the form of a beige foam (18 mg, 65%).

reactant | 1-(2-aminoethyl)-N,N-diisobutyl-2-[(3,4,5-trimethoxyphenyl)amino]-1H-benzimidazole-5-carboxamide | 30 mg, 1 eq | NCCN1C(=NC2=C1C=CC(=C2)C(=O)N(CC(C)C)CC(C)C)NC2=CC(=C(C(=C2)OC)OC)OC | C27H39N5O4
reactant | cyclohexanecarboxaldehyde | 5 mg, 0.8 eq | C1(CCCCC1)C=O | C7H12O
reactant | Borohydride | [BH4-]
reactant | benzyloxybenzaldehyde | C(C1=CC=CC=C1)OC1=C(C=O)C=CC=C1 | C14H12O2
solvent | methanol | 0.7 ml | CO | CH4O
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
product | 1-{2-[(cyclohexylmethyl)amino]ethyl}-N,N-diisobutyl-2-[(3,4,5-trimethoxy phenyl)amino]-1H-benzimidazole-5-carboxamide | C1(CCCCC1)CNCCN1C(=NC2=C1C=CC(=C2)C(=O)N(CC(C)C)CC(C)C)NC2=CC(=C(C(=C2)OC)OC)OC | C34H51N5O4
